US07381719B2
Place 6-(4-formyl-2-methoxyphenoxy)nicotinamide (Ex 414, Part B) (0.100 g, 0.367 mmol), 2-(4-methylcyclohexyl)ethylamine (0.0571 g, 0.404 mmol) and 3 {acute over (Å)} molecular sieves in a vial. Add methanol (3.6 mL), cap and stir the mixture overnight. Add NaBH4 (ca. 3-5 eq in two portions) and stir until the gasses stop evolving. Load the reaction mixture directly onto a 5 g ISCO® pre-load column. Dry the column in a vacuum oven at room temperature. Purify by eluting through a 10 g ISCO® column with 6% to 15% (2.0 M NH3 in methanol) in ethyl acetate to give 6-(2-methoxy-4-{[2-(4-methylcyclohexyl)ethylamino]methyl}phenoxy)nicotinamide. Dissolve the compound in dichloromethane (2.5 mL) and add 1 equivalent of 0.50 M methanesulfonic acid in dichloromethane. Stir the solution for a short time before concentrating to give the title compound: TOF MS ES+ 398.2 (M+H)+, HRMS calcd for C23H32N3O3 398.2444 (M+H)+, found 398.2440, time 0.52 min; Anal. Calcd for C23H31N3O3.0.5H2O: C, 57.35; H, 7.22; N, 8.36. Found: C, 57.33; H, 6.94; N, 8.34.

reactant | 6-(4-formyl-2-methoxyphenoxy)nicotinamide | 0.367 mmol, 0.100 g | C(=O)C1=CC(=C(OC2=NC=C(C(=O)N)C=C2)C=C1)OC | C14H12N2O4
reactant | 2-(4-methylcyclohexyl)ethylamine | 0.404 mmol, 0.0571 g | CC1CCC(CC1)CCN | C9H19N
reactant | NaBH4 | ca. 3-5 eq | [BH4-].[Na+]
solvent | methanol | 3.6 mL | CO | CH4O
product | 6-(2-methoxy-4-{[2-(4-methylcyclohexyl)ethylamino]methyl}phenoxy)nicotinamide | COC1=C(OC2=NC=C(C(=O)N)C=C2)C=CC(=C1)CNCCC1CCC(CC1)C | C23H31N3O3
